US05286869
(E)-3-[4-(1-imidazolyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5dicarboxylate:
332 mg (1 mM) of 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid together with 200 mg (1 mM) of (E)-3-{4-(1-imidazolyl)phenyl}-2-propen-1-ol, 248 mg (1.2 mM) of dicyclohexylcarbodiimide and 134 mg (1.1 mM) of 4-N,N-dimethylaminopyridine were dissolved in 5 ml of toluene, while heating, and refluxed for six hours. The solution was cooled to room temperature, and the crystals produced was filtered off. The filtrate was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by chromatography on a silica gel column, whereby the captioned compound was obtained. The yield was 494 mg (96%).

reactant | 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid | 1 mM, 332 mg | CC=1NC(=C(C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C16H16N2O6
reactant | (E)-3-{4-(1-imidazolyl)phenyl}-2-propen-1-ol | 1 mM, 200 mg | N1(C=NC=C1)C1=CC=C(C=C1)/C=C/CO | C12H12N2O
reactant | dicyclohexylcarbodiimide | 1.2 mM, 248 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(1-imidazolyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5dicarboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C1=CC=C(C=C1)N1C=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C28H26N4O6
